US06294558B1
5-(4-Bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole.(step 1)
[3-fluoro-4-(methylsulfonyl)phenyl]hydrazine hydrochloride (0.354 g, 1.47 mmol) was added to a solution of 4,4,4-Trifluoro-1-(4-bromophenyl)butane-1,3-dione (0.395 g, 1.34 mmol) in EtOH (20 mL). The mixture was heated at reflux temperature for 17 hours and cooled down to room temperature. The reaction mixture was concentrated in vacuo, and the residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and concentrated in vacuo . The residue was purified by flash chromatography eluting with hexane/ethyl acetate (3/1). The resulting solid was recrystallized from ethyl acetate/hexane to give the subtitle compound (0.537 g, 86.6% yield).

reactant | [3-fluoro-4-(methylsulfonyl)phenyl]hydrazine hydrochloride | 1.47 mmol, 0.354 g | Cl.FC=1C=C(C=CC1S(=O)(=O)C)NN
reactant | 4,4,4-Trifluoro-1-(4-bromophenyl)butane-1,3-dione | 1.34 mmol, 0.395 g | FC(C(CC(=O)C1=CC=C(C=C1)Br)=O)(F)F | C10H6BrF3O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-(4-Bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | 0.537 g, 86.6% yield | BrC1=CC=C(C=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F | C17H11BrF4N2O2S
